***********************************************************
* Model for XL4016 developed EasyEDA by signality.co.uk 
* based on datasheet:
*    http://www.xlsemi.com/datasheet/XL4016%20datasheet.pdf 
* and softstart performance information kindly provided by 
* Bin Liu of XLSEMI.com
**
* Note that the following parameters of the Error Amplifier 
* are best guess as they are not specified in the datasheet: 
*    Transconductance:    G=1mS 
*    Output current:      Iout=50uA 
*    Output resistance:   Rout=10MOhm
*    Output high voltage: Vhigh=1V
*    Output low voltage:  Vlow=0V
* The oscillator output swing is unspecified therefore in 
* the model it is defined to be 1V peak to peak and the 
* Error Amplifier output swing is set to the same range to 
* accommodate the 0% to 100% duty cycle quoted in the 
* datasheet. 
* In the real device, this output swing may be different.
**
***********************************************************
.subckt xl4016 GRND FB SW VC GRND
Cp GRND GRND 1n
A1 ILIMREF N002 0 0 0 0 ILIM 0 SCHMITT Vt=0 Vh=1u
A2 OSPREF N002 0 0 0 0 OSP 0 SCHMITT Vt=0 Vh=1u
B1 VIN OSPREF V=LIMIT(V(VIN,GRND)/1k, 0, 220u)*V(VINOK)
B2 VIN ILIMREF V=LIMIT(V(VIN,GRND)/1k, 0, 200u)*V(VINOK)
A4 0 ILIM 0 OSP 0 0 CLR 0 OR
S1 SW N003 GDRV 0 SW
C SW n003 100p
R1 VIN N003 22u
A3 N005 0 CLK PRE CLR 0 GDRV 0 DFLOP Td=1u
A5 SAW ERR 0 0 0 0 CLK 0 SCHMITT Vt=0 Vh=100u
A6 FB REF 0 0 0 0 ERR 0 OTA G=1m Iout=50u Rout=10Meg Vhigh=1 Vlow=0
R2 N005 0 1
C1 SAW 0 1n
A7 SAW N004 N004 N004 N004 SAW N004 N004 SCHMITT Vt=0.6 Vh=0.5 td=1n Rlow=10 Rhigh=2G
Vimon1 N004 0 -100m
B3 0 PRE I=U(I(Vimon1)-1m) Rpar=1 Cpar=1n
R3 ERR N006 20k
C2 N006 0 3.3n
B5 VIN SAW I=(LIMIT(V(VIN,GRND), 0, 3.3)/3.3*(48u+132u*V(SCPn)))*V(VINOK)
C5 N002 VIN 10p
R6 N003 N002 1k
B4 GRND VC I=MIN(V(VIN,GRND), 3.3)/100 Rpar=100
I1 VIN GRND 2.1m load
A9 VIN GRND GRND GRND GRND GRND REF GRND SCHMITT Vt=7.9 Vh=0.1 Vhigh=1.25
A10 VIN GRND 0 0 0 VINOKn VINOK 0 SCHMITT Vt=7.9 Vh=0.1 ; Trise=100u
A8 N001 0 ILIM OSP 0 SCPn 0 0 DFLOP
R7 N001 0 1
.model sw sw(Level=2 Ron=40m Roff=100Meg Vt=0.5 Vh=-10m )
.ends xl4016
